US09284286B2
4-Mercapto-thiazole-5-carboxylic acid methyl ester (0.41 g, 2.16 mmol) is dissolved in DMF (6 ml) and triethylamine (0.45 ml, 3.24 mmol) and 1-(3-bromo-1,1-difluoro-propyl)-4-fluoro-benzene (synthesized according to the methods described in sections a) to e) of example 1) (0.55 g, 2.16 mmol) are added successively. The resulting mixture is stirred at RT for 16 h. After completion of the reaction, the mixture is poured onto water (20 ml) and extracted with EtOAc (3×30 ml). The combined organic layers are washed with brine (20 ml), dried over sodium sulfate and concentrated to dryness. The crude is purified by column chromatography (silica gel, 20% EtOAc/hexane) yielding 4-[[3,3-difluoro-3-(4-fluorophenyl)-propyl]sulfanyl]-thiazole-5-carboxylic acid methyl ester (0.42 g, 1.2 mmol, 56%).

reactant | 4-Mercapto-thiazole-5-carboxylic acid methyl ester | 2.16 mmol, 0.41 g | COC(=O)C1=C(N=CS1)S | C5H5NO2S2
reactant | triethylamine | 3.24 mmol, 0.45 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-bromo-1,1-difluoro-propyl)-4-fluoro-benzene | BrCCC(F)(F)C1=CC=C(C=C1)F | C9H8BrF3
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 4-[[3,3-difluoro-3-(4-fluorophenyl)-propyl]sulfanyl]-thiazole-5-carboxylic acid methyl ester | 1.2 mmol, 0.42 g, 56% | COC(=O)C1=C(N=CS1)SCCC(C1=CC=C(C=C1)F)(F)F | C14H12F3NO2S2
